US07504508B2
A solution of (3,5-bis(trifluoromethyl)phenyl)((2S,4R)-4-(4-chlorophenylamino)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)methanone (19.44 g, 0.037 mol) in acetyl chloride (5 mL) was cooled to 0° C. and triethylamine (6.59 mL, 0.037 mol) was added dropwise over 30 min, a precipitate forms during this time. An additional 250 mL of methylene chloride was added to completely dissolve all the precipitate. The reaction was allowed to stir overnight at room temperature. The mixture was concentrated under reduced pressure, partitioned between ethyl acetate and 1N sodium hydroxide while cooled to 0° C. The aqueous layer was extracted 3 times with ethyl acetate washed with sat. aqueous sodium bicarbonate, brine and dried over magnesium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (25/75 hexanes/ethyl acetate gradient) to afford pure N-((2S,4R)-1-(3,5-bis(trifluoromethyl)benzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide (H-31) (18.2 g, 86%).

reactant | (3,5-bis(trifluoromethyl)phenyl)((2S,4R)-4-(4-chlorophenylamino)-2-methyl-3,4-dihydroquinolin-1(2H)-yl)methanone | 0.037 mol, 19.44 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C(=O)N1[C@H](C[C@H](C2=CC=CC=C12)NC1=CC=C(C=C1)Cl)C)(F)F | C25H19ClF6N2O
reactant | triethylamine | 0.037 mol, 6.59 mL | C(C)N(CC)CC | C6H15N
reactant | methylene chloride | 250 mL | C(Cl)Cl | CH2Cl2
reactant | acetyl chloride | 5 mL | C(C)(=O)Cl | C2H3ClO
product | N-((2S,4R)-1-(3,5-bis(trifluoromethyl)benzoyl)-2-methyl-1,2,3,4-tetrahydroquinolin-4-yl)-N-(4-chlorophenyl)acetamide | 18.2 g, 86% | FC(C=1C=C(C(=O)N2[C@H](C[C@H](C3=CC=CC=C23)N(C(C)=O)C2=CC=C(C=C2)Cl)C)C=C(C1)C(F)(F)F)(F)F | C27H21ClF6N2O2
